US04943591
(i) [2-[(2-Propynyl)oxy]ethyl]benzene
A mixture of benzenethanol (12.2 g), 3-bromo-1-propyne (12.0 ml), 40% aqueous sodium hydroxide (20 ml) and tetrabutylammonium bisulphate (1 g) was stirred overnight. Water (100 ml) was added and the mixture was extracted with ER (2×100 ml). The organic extracts were washed with water and brine, dried and concentrated to a dark oil which was purified by FCC eluting with CX-ER (19:1) to give the title compound as a pale yellow oil (12.3 g) T.l.c. (CX-ER 19:1) Rf 0.50.

reactant | benzenethanol | 12.2 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | 3-bromo-1-propyne | 12.0 ml | BrCC#C | C3H3Br
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bisulphate | 1 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 100 ml | O | H2O
product | [2-[(2-Propynyl)oxy]ethyl]benzene | 12.3 g | C(C#C)OCCC1=CC=CC=C1 | C11H12O
